US06869954B2
6) Preparation of 4-(4-tert-butoxycarbonyl-1-piperazinyl)-methyl-2-isobutyl-6-phenyl-2H-pyridazin-3-one
Following the procedure of Example 1(10), 2-isobutyl-4-methanesulfonyloxy-6-phenyl-2H-pyridazin-3-one and tert-butyl 1-piperazinecarboxylate were reacted in N,N-dimethylformamide as a solvent to yield the title compound as a yellow oil (yield: 83.5%).

reactant | 2-isobutyl-4-methanesulfonyloxy-6-phenyl-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)OS(=O)(=O)C)C1=CC=CC=C1 | C15H18N2O4S
reactant | tert-butyl 1-piperazinecarboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-tert-butoxycarbonyl-1-piperazinyl)-methyl-2-isobutyl-6-phenyl-2H-pyridazin-3-one | yield: 83.5% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(N(N=C(C1C)C1=CC=CC=C1)CC(C)C)=O | C24H34N4O3
